US07872028B2
Step 2. 3-(tetrahydro-pyran-4-yl)-propan-1-ol
To a solution of 3-(2H-pyran-4(3H, 5H, 6H)-ylidene)propan-1-ol (13 g, 0.0916 mol) in methanol (260 mL) was added Pd(OH)2/C (1.3 g). The reaction flask was evacuated and filled with H2. Stirring was continued until the starting material had disappeared. The mixture was filtered through celite, and the filter cake was washed with MeOH (2×10 mL). The combined organic extracts were dried over Na2SO4, and concentrated under vacuum to give the product (11.8 g, 90%), which was used for the next step without purification. 1H NMR (CD3OD) δ 1.1-1.3 (m, 4H), 1.4-1.6 (m, 5H), 2.1-2.3 (s, 1H), 3.3-3.4 (t, 2H), 3.5-3.6 (t, 2H), 3.8-3.9 (dd, 2H).

reactant | 3-(2H-pyran-4(3H, 5H, 6H)-ylidene)propan-1-ol | 0.0916 mol, 13 g | O1CCC(CC1)=CCCO | C8H14O2
solvent | methanol | 260 mL | CO | CH4O
catalyst | Pd(OH)2/C | 1.3 g | [OH-].[OH-].[Pd+2]
product | 3-(tetrahydro-pyran-4-yl)-propan-1-ol | 11.8 g, 90% | O1CCC(CC1)CCCO | C8H16O2
